US07259177B2
tert-Butyl 2-(cis-3-hydroxycyclohexylmethoxy)-2-methylpropionate
16 g of tert-butyl 2-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexylmethoxy]-2-methylpropionate are dissolved in 100 ml of acetonitrile, and 62 ml of tetrabutylammonium fluoride (1 N solution in tetrahydrofuran) are added. After 2 h of stirring at 60° C., the reaction has ended and the mixture is concentrated under reduced pressure. The residue is extracted from water/ethyl acetate. The combined org. phases are extracted with saturated sodium chloride solution and dried over magnesium sulfate, and the solvent is removed under reduced pressure. The crude product is purified on silica gel (heptane/ethyl acetate 15:1→1:1). This gives 16 g of the product tert-butyl 2-(cis-3-hydroxycyclohexylmethoxy)-2-methylpropionate as a colorless oil.

reactant | tert-butyl 2-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexylmethoxy]-2-methylpropionate | 16 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C31H46O4Si
reactant | tetrabutylammonium fluoride | 1 N, 62 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | tert-Butyl 2-(cis-3-hydroxycyclohexylmethoxy)-2-methylpropionate | O[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C15H28O4
